US07585874B2
6-Iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
A mixture of 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (420 mg, 1.5 mmol) and 2-amino-5-iodopyridine (330 mg, 1.5 mmol) in ethanol (6.7 mL) containing hydrobromic acid (48%, 84 μL, 0.75 mmol) and triethylamine (105 μL, 0.75 mmol) was heated under reflux under argon overnight. After cooling to room temperature, the mixture was evaporated and poured onto hydrochloric acid (0.5 N) and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulphate and evaporated to leave a yellow oil. Purification by chromatography (SiO2, dichloromethane:methanol=100:0 to 95:5) afforded the title compound (170 mg, 28%) which was obtained as a light yellow solid. MS: m/e=402.1 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | 2-amino-5-iodopyridine | 1.5 mmol, 330 mg | NC1=NC=C(C=C1)I | C5H5IN2
reactant | hydrobromic acid | 0.75 mmol, 84 μL | Br | BrH
reactant | triethylamine | 0.75 mmol, 105 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 6.7 mL | C(C)O | C2H6O
product | 6-Iodo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 170 mg, 28% | IC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12IN3O
